US08604065B2
7. 7-(1,3-dioxoisoindol-2-yl)heptyl-4-methylbenzenesulfonate
783 mg of 2-(7-hydroxyheptyl)isoindol-1,3-dione was added to 40 mL of DCM, and 800 mg of p-toluenesulfonyl chloride was added. Pyridine was then added dropwise with stirring, and the mixture was stirred overnight. After 24 h, 100 mL of water was added to the reaction system, which was then violently vibrated and isolated. The water layer was extracted with 50 mL of DCM. The organic layers were combined, successively washed with 100 mL of 5% citric acid aqueous solution, 100 mL of saturated sodium carbonate aqueous solution, and 100 mL of saturated sodium chloride aqueous solution, dried over 5 g of MgSO4 for 30 min, and concentrated via a rotary evaporator to obtain an oily liquid.

reactant | 2-(7-hydroxyheptyl)isoindol-1,3-dione | 783 mg | OCCCCCCCN1C(C2=CC=CC=C2C1=O)=O | C15H19NO3
reactant | DCM | 40 mL | C(Cl)Cl | CH2Cl2
reactant | p-toluenesulfonyl chloride | 800 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Pyridine | N1=CC=CC=C1 | C5H5N
solvent | water | 100 mL | O | H2O
product | 7-(1,3-dioxoisoindol-2-yl)heptyl-4-methylbenzenesulfonate | O=C1N(C(C2=CC=CC=C12)=O)CCCCCCCOS(=O)(=O)C1=CC=C(C=C1)C | C22H25NO5S
